US08357688B2
To a mixed liquid of 5.50 g of methyl 4-fluoro-2-(methoxymethyl)-5-nitrobenzoate and 55.0 mL of pyridine was added 7.20 mL of tert-butylamine, followed by stirring at room temperature overnight. The solvent was evaporated under reduced pressure, and to the residue was added water. Then, 1 M hydrochloric acid was added thereto to adjust the pH to about 4, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 6.82 g of methyl 4-(tert-butylamino)-2-(methoxymethyl)-5-nitrobenzoate as a yellow solid.

reactant | methyl 4-fluoro-2-(methoxymethyl)-5-nitrobenzoate | 5.50 g | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])COC | C10H10FNO5
reactant | tert-butylamine | 7.20 mL | C(C)(C)(C)N | C4H11N
solvent | pyridine | 55.0 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-(tert-butylamino)-2-(methoxymethyl)-5-nitrobenzoate | 6.82 g | C(C)(C)(C)NC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])COC | C14H20N2O5
